US04233059
4-propylsulfonyl-1,2,3-triazole
170.5 g (1.08 mole) of sodium permangamate are added batchwise within a period of 30 minutes at 45° to 55° C. to a solution of 103.2 g (0.72 mole) of 4-propylthio-1,2,3-triazole in 320 ml acetic acid and 420 ml water. The solution is then stirred for 10 minutes at 45° C. and reacted at 20° C. with a solution of 159.8 g (0.84 mole) of sodium disulfite in 500 ml water up to complete decolorization. Thereupon extraction is effected four times with 250 ml of acetic acid ester. The organic phase is then dried on magnesium sulfate, filtered and concentrated in a vacuum.

reactant | sodium | 1.08 mole, 170.5 g | [Na] | Na
reactant | 4-propylthio-1,2,3-triazole | 0.72 mole, 103.2 g | C(CC)SC=1N=NNC1 | C5H9N3S
reactant | sodium disulfite | 0.84 mole, 159.8 g | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
reactant | water | 420 ml | O | H2O
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 320 ml | C(C)(=O)O | C2H4O2
product | 4-propylsulfonyl-1,2,3-triazole | C(CC)S(=O)(=O)C=1N=NNC1 | C5H9N3O2S
